US07935702B2
O. 7-[6-Chloro-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine (compound 18)
Dissolve 5-(trifluoromethyl)-6-(5-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1,8-naphthyridin-2-yl)pyridazin-3-ol hydrobromide in neat POCl3 (20 mL). Heat the mixture at reflux for 4 hours. Cool and evaporate to dryness. Add toluene (25 mL) and remove the solvent under reduced pressure. Dissolve the residue in CH2Cl2 (30 mL) and sat. NaHCO3 (aq) (30 mL). Extract the aqueous phase with CH2Cl2 (3×30 mL). Combine, dry and evaporate the organic extracts to yield the title compound. LC/MS (MH+) 472.04.

reactant | 5-(trifluoromethyl)-6-(5-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1,8-naphthyridin-2-yl)pyridazin-3-ol hydrobromide | Br.FC(C=1C=C(N=NC1C1=NC2=NC=CC(=C2C=C1)NC1=NC=C(C=C1)C(F)(F)F)O)(F)F
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-[6-Chloro-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | ClC1=CC(=C(N=N1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF6N6
